US09079895B2
1-(2-chloroethyl)indoline (Compound 50)
A microwave vial was charged with indoline (0.5 g, 4.19 mmol), 2-chloro-1-bromoethane (0.502 ml, 6.25 mmol), TEA (0.7 ml, 6.25 mmol) and acetonitrile (10 ml). The vial was irradiated with microwaves for 1 hour at 80° C. The mixture was diluted with DCM and washed with water (1×10 ml). The organic layer was dried and concentrated and the residue was purified by flash column chromatography (silica, Hexane/EtOAc 95:5 to 0:1). The product was isolated as a violet solid (400 mg; 52%).

reactant | indoline | 4.19 mmol, 0.5 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | 2-chloro-1-bromoethane | 6.25 mmol, 0.502 ml | ClCCBr | C2H4BrCl
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(2-chloroethyl)indoline | ClCCN1CCC2=CC=CC=C12 | C10H12ClN
